US04247549
Preparation of 1-(3-amino-3-oxopropyl)-4-(1,1-dimethylethoxycarbonyl)piperazine.
A molten mixture of 7.5 (0.04 mole) of 1-(1,1-dimethylethoxycarbonyl)piperazine, 2.9 g (0.04 mole) of acrylamide and 3 drops of acetic acid was stirred and heated at 65° for 18 hours. The mixture which had solidified during the heating period was dissolved in 100 ml of chloroform and washed with dilute aqueous sodium hydroxide solution. The dried (MgSO4) CHCl3 solution was filtered and evaporated in vacuo to yield a white solid. Recrystallization from toluene-hexane returned 8.0 g (78%) of product, m.p. 96°-8°. Calc. for C12H13N3O3 (257.335): C, 56.01; H, 9.01; N, 16.33. Found: C, 56.05; H, 9.04; N, 16.05.

reactant | 1-(1,1-dimethylethoxycarbonyl)piperazine | CC(C)(OC(=O)N1CCNCC1)C | C9H18N2O2
reactant | acrylamide | 0.04 mole, 2.9 g | C(C=C)(=O)N | C3H5NO
catalyst | acetic acid | 3 drops | C(C)(=O)O | C2H4O2
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(3-amino-3-oxopropyl)-4-(1,1-dimethylethoxycarbonyl)piperazine | NC(CCN1CCN(CC1)C(=O)OC(C)(C)C)=O | C12H23N3O3
